US08609653B2
An ice cold solution of Red-Al (65% in toluene) (3.55 ml, 11.63 mmol) in tetrahydrofuran (THF) (3.3 ml) was treated dropwise with a solution of 3-ethyl 5-methyl 2-amino-6-methyl-4-(p-tolyl)pyridine-3,5-dicarboxylate (1.91 g, 5.82 mmol) in tetrahydrofuran (THF) (23 ml). After stirring for 1 hour at 0° C., the reaction was quenched with water slowly, then diluted with EtOAc (10 mL) and 20% aq. NaOH (2 mL). The mixture was stirred for 20 min at rt, filtered, extracted with EtOAc, washed with brine, dried with Na2SO4, filtered, and concentrated to afford crude methyl 6-amino-5-(hydroxymethyl)-2-methyl-4-(p-tolyl)nicotinate (1.4679 g, 5.13 mmol, 88% yield) as brown solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.19 (d, J=7.8 Hz, 2 H), 7.03 (d, J=8.0 Hz, 2 H), 5.25 (s, 2 H), 4.42 (s, 2 H), 3.43 (s, 3 H), 2.42 (s, 3 H), 2.38 (s, 3 H); LCMS (m/z) ES+=287 (M+1).

reactant | Red-Al | 11.63 mmol, 3.55 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | 3-ethyl 5-methyl 2-amino-6-methyl-4-(p-tolyl)pyridine-3,5-dicarboxylate | 5.82 mmol, 1.91 g | NC1=NC(=C(C(=C1C(=O)OCC)C1=CC=C(C=C1)C)C(=O)OC)C | C18H20N2O4
solvent | tetrahydrofuran | 3.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
product | methyl 6-amino-5-(hydroxymethyl)-2-methyl-4-(p-tolyl)nicotinate | 5.13 mmol, 1.4679 g, 88% yield | NC1=NC(=C(C(=O)OC)C(=C1CO)C1=CC=C(C=C1)C)C | C16H18N2O3
